Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
clarithromycin / digoxin / amiodarone
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion 
 
Major Surgical or Invasive Procedure:
___ - Mitral valve replacement with a 29 mm ___ 
___ Biocor Epic tissue valve.

 
History of Present Illness:
Ms. ___ is a ___ year old woman well known to service please 
see history and physical from ___ and office note ___.  
She originally presented respiratory distress, decompensated 
heart failure, and had a PEA arrest for which she had CPR 
performed, was intubated, and resuscitated in the ICU. From 
there she had cardiac workup and recovered with discharge home. 
She was seen in clinic ___ for follow up for surgical 
evaluation and planned for surgery.  She now presents for 
heparin bridge and preoperative workup.
 
Past Medical History:
Atrial fibrillation
Cardiomyopathy 
Chronic Kidney Disease, stage V
Chronic Neck Pain
Congestive Heart Failure, systolic/diastolic (EF 20%)
Colon Cancer s/p colectomy ___
Coronary Artery Disease
GI Bleed
Gout
Hyperlipidemia
Hypertension 
Hypothyroid
Mitral Regurgitation
Peripheral Vascular Disease status post bilateral stents 
Permanent Pacemaker ___ 

 
Social History:
___
Family History:
Mother with cardiac history. 
 
Physical Exam:
Pulse: 107 afib  Resp:18  O2 sat:  100 % RA 
B/P ___
Height: 64.9 inches     Weight: 111.5 pounds

General: no acute distress appears stated age 
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM []
Chest: Lungs clear bilaterally [x] 
Heart: RRR []  Irregular [x]  Murmur ___ systolic 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x] no palpable masses 
Extremities: Warm [x], well-perfused [x]  Edema none 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+  Left:2+
DP           Right: 1+  Left:1+
___           Right: 1+  Left:1+
Radial       Right: 2+  Left:2+

Carotid Bruit       bruit vs murmur 

 
Pertinent Results:
___ ECHO
Pre-bypass: The left atrium is moderately dilated. No thrombus 
is seen in the left atrial appendage. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity is dilated for BSA.. 
Overall left ventricular systolic function is severely depressed 
(LVEF= ___ %) with severe global RV free wall hypokinesis. 
There are simple atheroma in the aortic arch. There are complex 
(>4mm) atheroma in the descending thoracic aorta. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are severely thickened/deformed. The 
mitral valve shows characteristic rheumatic deformity. There is 
mild mitral stenosis with at least Moderate to severe (3+) 
mitral regurgitation, secondary to a bilateral restrictive 
leaflets. The MR jet is eccentric and may be underestimated 
secondary to the coanda effect. There is blunting of the LUPV. 
There is 1+ TR and trivial PI.

POST-BYPASS:
The patient is in NSR with interrmitent A pacing. The patient is 
on Milrinone, EPI, & Norepi. Biventricular is midly improved to 
an LVEF of 20% and moderaly depressed RV free wall on the above 
ionotropes. A well seated bioprosthetic valve with appropriate 
leaflet motion is visualized in the mitral position. There is 
trace central MR. ___ peak pressure gradient across the valve is 
13mmHg and the mean pressure pressure gradient across the valve 
is ___ mmHg. The remaining valves are unchanged.
Aorta is intact s/p decannulation.    
========================================================    
Head CT ___
There is no evidence of infarction, hemorrhage, edema, or mass. 
Mild chronic small vessel ischemic changes. Mild generalized 
atrophy. No hydrocephalus. 
=========================================================
Head and Neck CTA ___

Final Report 
EXAMINATION:  CTA HEAD AND CTA NECK Q16 CT 
  
INDICATION:  Postoperative day 1 after mitral valve replacement 
with new onset 
seizures.  Evaluate for hemorrhage or embolic event. 
  
TECHNIQUE:  Contiguous MDCT rapid axial imaging was performed 
from the aortic 
arch through the brain during the infusion of 70 mL of Omnipaque 
intravenous 
contrast material. Three-dimensional angiographic volume 
rendered, curved 
reformatted and segmented images were generated on a dedicated 
workstation. 
This report is based on interpretation of all of these images. 
  
DOSE:  Acquisition sequence: 
   1) Stationary Acquisition 5.0 s, 0.5 cm; CTDIvol = 54.5 mGy 
(Head) DLP = 
27.2 mGy-cm. 
   2) Spiral Acquisition 5.4 s, 42.1 cm; CTDIvol = 32.0 mGy 
(Head) DLP = 
1,347.6 mGy-cm. 
 Total DLP (Head) = 1,375 mGy-cm. 
  
COMPARISON:  Noncontrast head CT ___.  CT chest ___. 
  
FINDINGS:  
  
CTA HEAD: 
There are moderate atherosclerotic calcifications of the 
bilateral cavernous 
and ophthalmic segments of the internal carotid arteries without 
significant 
narrowing.  The vessels of the circle of ___ and their 
principal 
intracranial branches appear patent without significant 
stenosis, occlusion, 
or aneurysm formation.  The dural venous sinuses are patent. 
  
CTA NECK: 
There is moderate calcified and noncalcified atherosclerotic 
plaque along the 
thoracic aortic arch.  There is moderate atherosclerotic 
calcification of the 
origin of the left subclavian artery.  There is mild 
atherosclerotic 
calcification of the origins of the bilateral vertebral arteries 
without 
significant stenosis.  There are moderate atherosclerotic 
calcifications at 
the bilateral carotid bifurcations.  There is a partially 
calcified 
atherosclerotic plaque in the distal left common carotid artery, 
mildly 
narrowing the lumen.  There are 2 atherosclerotic stenoses at 
the origin of 
the left internal carotid artery with an apparent ulceration 
separating them.  
There is roughly 50% stenosis of the left internal carotid 
artery by NASCET 
criteria.  There is no stenosis of the right internal carotid 
artery by NASCET 
criteria.  There is an atherosclerotic stenosis at the origin of 
the left 
vertebral artery. 
  
  
OTHER: 
There are moderate right greater than left pleural effusions 
with adjacent 
compressive atelectasis.  There is moderate apical predominant 
centrilobular 
emphysema.  Numerous scattered, tiny biapical pulmonary nodules 
measuring up 
to 3 mm in the right apex are unchanged compared to ___.  
There is trace 
right apical pneumothorax.  The visualized portion of the 
thyroid gland is 
within normal limits. There is no lymphadenopathy by CT size 
criteria.  
Postoperative subcutaneous gas is noted in the anterior chest 
wall soft 
tissues.  Right anterior chest wall pacer is noted with partial 
visualization 
of the leads. 
  
IMPRESSION: 
  
  
1. Patent intracranial vasculature without significant stenosis, 
occlusion or 
aneurysm. 
2. 50% stenosis of the left internal carotid artery by NASCET 
criteria.  
Ulcerated plaque at the left internal carotid artery origin. 
3. Atherosclerotic stenosis at the origin of the left vertebral 
artery. 
4. Trace right apical pneumothorax, presumably postoperative. 
5. Moderate right greater than left pleural effusions. 
6. Moderate centrilobular emphysema. 
7. Numerous scattered sub 4 mm biapical pulmonary nodules are 
unchanged since 
___. 
  
NOTIFICATION:  The findings above were discussed with ___ 
___, M.D. by 
___, on the telephone on ___ at 5:29 AM, 
approximately 5 
minutes after discovery of the findings. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on WED ___ 
5:45 ___ 
 

  Imaging Lab 

Report History 
.

___ 05:40AM BLOOD WBC-9.2 RBC-3.54* Hgb-10.0* Hct-32.8* 
MCV-93 MCH-28.2 MCHC-30.5* RDW-17.1* RDWSD-57.1* Plt ___
___ 01:37AM BLOOD WBC-15.8* RBC-2.98* Hgb-8.3* Hct-26.7* 
MCV-90 MCH-27.9 MCHC-31.1* RDW-16.5* RDWSD-53.7* Plt Ct-58*
___ 05:40AM BLOOD ___
___ 05:40AM BLOOD Glucose-93 UreaN-44* Creat-1.2* Na-139 
K-3.9 Cl-94* HCO3-36* AnGap-13
___ 02:33AM BLOOD Glucose-76 UreaN-47* Creat-1.7* Na-140 
K-4.2 Cl-98 HCO3-31 AnGap-15
___ 05:40AM BLOOD Mg-2.5
 
Brief Hospital Course:
Mrs. ___ was admitted to the ___ on ___ for IV heparin 
and preoperative workup for her mitral valve surgery. She was 
worked-up in the usual preoperative manner. Heparin was 
continued for anticoagulation for her chronic atrial 
fibrillation. On ___, she was taken to the operating room 
where she underwent replacement of her aortic valve using a 29mm 
___ Porcine valve. Please see operative note for 
details. Post-operatively she was taken to the intensive care 
unit for monitoring. Over the next several hours, she awoke 
neurologically intact and was extubated. She was somnolent and 
hypercarbic. Later that evening she was not following commands 
but moved all extremities. She was then observed to have
vertical nystagmus followed by upgaze to the left and head 
twitching that soon involved left upper extremity rhythmic 
moving. Her lower extremities did not move. Resolved without 
intervention, episode lasted for 1min. She was reintubated 
afterwards. Neurology was consulted and she underwent a 
non-contrast head CT which was negative for acute process. EEG 
was abnormal.  Head and neck CTA revealed patent intracranial 
vasculature without significant stenosis, occlusion or 
aneurysm, 50% stenosis of the left internal carotid artery, 
ulcerated plaque at the left internal carotid artery origin, 
atherosclerotic stenosis at the origin of the left vertebral 
artery.  Keppra was initiated with Lorazepam prn for seizure 
activity.  
She remained hemodynamically stable and was transferred to the 
telemetry floor for further recovery.  Coumadin was resumed for 
AFib.  She was evaluated by the physical therapy service for 
assistance with strength and mobility. By the time of discharge 
on POD 7 she was ambulating with assistance, the wound was 
healing, and pain was controlled with oral analgesics. She was 
discharged to ___ in good 
condition with appropriate follow up instructions.
 
Medications on Admission:
Lipitor 40mg daily 
Hydralazine 25 mg daily
Isordil 30 mg BID 
Levothyroxine 50 mcg daily 
Toprol XL 100 mg BID 
Omeprazole 20 mg BID 
Torsemide 40 mg daily 
Coumadin 4 mg daily stopped for surgery managed by ___ 

Acetaminophen 650 mg q8h prn pain 
Aspirin 81 mg daily 
Miralax 17 gm daily 
Colace 100 mg BID
Lorazepam 0.5mg HS PRN insomnia 
 
Discharge Medications:
1.  Artificial Tears ___ DROP BOTH EYES PRN dry eye  
2.  Bisacodyl ___AILY:PRN constipation  
3.  Heparin 5000 UNIT SC BID  
4.  LevETIRAcetam 500 mg PO DAILY  
5.  LORazepam 1 mg IV Q4H:PRN sz  
6.  Metoprolol Tartrate 12.5 mg PO TID  
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*40 Tablet Refills:*0 
8.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 40 mg PO QPM  
11.  Docusate Sodium 100 mg PO BID  
12.  Levothyroxine Sodium 50 mcg PO DAILY  
13.  LORazepam 0.5 mg PO QHS:PRN insomnia 
RX *lorazepam 0.5 mg 1 by mouth at bedtime Disp #*20 Tablet 
Refills:*0 
14.  Omeprazole 20 mg PO BID  
15.  Polyethylene Glycol 17 g PO DAILY  
16.  Torsemide 40 mg PO DAILY  
17.  Warfarin 4 mg PO DAILY16 
dose to change for goal INR ___, dx: AFib  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mitral Regurgitation s/p tissue MV replacement
postop seizure

Systolic and diastolic heart failure
PEA arrest
Atrial Fibrillation
Chronic Kidney Disease, baseline Cre 2.8-3.5
Chronic Neck Pain
Colon Cancer, right colectomy ___
Coronary Artery Disease
GI Bleed ___ years ago while on Coumadin/Plavix - noted for ulcer  

Gout
Hyperlipidemia
Hypertension
Hypothyrodism
Peripheral Vascular Disease status post stents bilaterally 
Pulmonary Hypertension
Rheumatic Heart Disease
Insomnia - tolerated trazodone with last admission 

 
Discharge Condition:
Alert and oriented x3 non-focal 
 Ambulating- deconditioned

Incisional pain managed with oral narcotics
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema - none

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage.

2) Please NO lotions, cream, powder, or ointments to incisions. 
 3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
 4) No driving for approximately one month and while taking 
narcotics. Driving will be discussed at follow up appointment 
with surgeon when you will likely be cleared to drive. 
 5) No lifting more than 10 pounds for 10 weeks
 6) Please call with any questions or concerns ___

*Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___